US09416132B2
A solution of tert-butyl 2-oxo-5,6-dihydropyridine-1(2H)-carboxylate (2.1 g, 11 mmol) in CH3NO2 (22.7 g, 372 mmol) under N2 was added DBU (2.52 g, 16.5 mmol). The mixture was stirred at room temperature overnight and then condensed and purified by flash chromatography to give compound tert-butyl 4-(nitromethyl)-2-oxopiperidine-1-carboxylate (0.6 g, 22%) as a white solid.

reactant | tert-butyl 2-oxo-5,6-dihydropyridine-1(2H)-carboxylate | 11 mmol, 2.1 g | O=C1N(CCC=C1)C(=O)OC(C)(C)C | C10H15NO3
reactant | CH3NO2 | 372 mmol, 22.7 g | C[N+](=O)[O-] | CH3NO2
reactant | DBU | 16.5 mmol, 2.52 g | C1CCC2=NCCCN2CC1 | C9H16N2
product | tert-butyl 4-(nitromethyl)-2-oxopiperidine-1-carboxylate | 0.6 g, 22% | [N+](=O)([O-])CC1CC(N(CC1)C(=O)OC(C)(C)C)=O | C11H18N2O5
